US08420817B2
12.1 Ethyl 5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylate
A 100 ml round-bottomed flask equipped with a magnetic stirrer is charged with 0.3 g (1.3 mmol) of 5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid (Angew Chem Int Ed 2004, 43(34), 4526-4528) and 50 ml of ethanol. This solution is admixed with 0.5 ml of concentrated sulfuric acid. The reaction mixture is then brought to reflux for 18 hours. The cooled solution is concentrated to dryness under reduced pressure. The residue is taken up in dichloromethane (100 ml) and the organic phase is washed successively with normal aqueous sodium hydroxide solution (30 ml), with water (20 ml) and then with saturated aqueous sodium chloride solution. It is dried over sodium sulfate and then concentrated under reduced pressure. This gives 0.29 g (1.12 mmol) of the expected product in the form of a yellow powder.

reactant | 5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | 1.3 mmol, 0.3 g | FC(C=1C=C2C(=NC1)NC(=C2)C(=O)O)(F)F | C9H5F3N2O2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 1.12 mmol, 0.29 g | FC(C=1C=C2C(=NC1)NC(=C2)C(=O)OCC)(F)F | C11H9F3N2O2
